US08283361B2
(S)-Ethyl 1-(1-(tert-butoxycarbonyl)pyrrolidin-3-yl)-6-iodo-4-oxo-1,4-dihydroquinoline-3-carboxylate (1.2 g, 1.08 mmol) was dissolved in 1,4-dioxane (10 mL) and 4.0M hydrogen chloride in 1,4-dioxane (4 mL) was added. The reaction was stirred at 23° C. for 3 hours, and the solvent was removed in vacuo. The solid was then dried in a vacuum oven at 50° C. for 18 hours to give 1.03 g (quant. yield) of (R)-ethyl 6-iodo-4-oxo-1-(pyrrolidin-3-yl)-1,4-dihydroquinoline-3-carboxylate hydrochloride as a yellow solid.

reactant | (S)-Ethyl 1-(1-(tert-butoxycarbonyl)pyrrolidin-3-yl)-6-iodo-4-oxo-1,4-dihydroquinoline-3-carboxylate | 1.08 mmol, 1.2 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)N1C=C(C(C2=CC(=CC=C12)I)=O)C(=O)OCC | C21H25IN2O5
reactant | hydrogen chloride | 4.0M | Cl | ClH
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | (R)-ethyl 6-iodo-4-oxo-1-(pyrrolidin-3-yl)-1,4-dihydroquinoline-3-carboxylate hydrochloride | 1.03 g, quant. yield | Cl.IC=1C=C2C(C(=CN(C2=CC1)[C@H]1CNCC1)C(=O)OCC)=O | InChI=1S/C16H17IN2O3.ClH/c1-2-22-16(21)13-9-19(11-5-6-18-8-11)14-4-3-10(17)7-12(14)15(13)20;/h3-4,7,9,11,18H,2,5-6,8H2,1H3;1H/t11-;/m1./s1
